US07709468B2
Preparation #D.1: 2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazine
A mixture of 2-(4-fluorophenyl)imidazo[1,2-a]pyrazine-8-carboxylic acid (Preparation #C.1, 18.9 g, 66.1 mmol) and 1M of hydrogen chloride in water (500 mL) was heated to about 100° C. for about 2 h. The reaction mixture was cooled to ambient temperature and solid Na2CO3 (50.0 g) was added cautiously portion-wise to raise the pH to about 8-9. The resulting brown solid was collected washing with water (4×80 mL). The product in the filtrate was extracted with EtOAc (3×200 mL). In addition the solid was dissolved in EtOAc (1 L) and filtered from insoluble material. The combined organic extracts were washed with water (3×200 mL) and brine (150 mL), then dried over Na2SO4, filtered and concentrated under reduced pressure to yield a brown solid. The solid was stirred with Et2O (8×150 mL); the insoluble solid was filtered each time until no product remained in the insoluble material. The Et2O was evaporated to yield a brown solid, which was dissolved in EtOAc (25 mL) and purified by silica chromatography using the EtOAc as eluent to yield an orange/brown solid (5.12 g, 34.8%): LC/MS (Table 1, Method g) Rt=2.10 min; MS m/z: 214.1 (M+H)+.

reactant | 2-(4-fluorophenyl)imidazo[1,2-a]pyrazine-8-carboxylic acid | 66.1 mmol, 18.9 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2C(=O)O)C1 | C13H8FN3O2
reactant | hydrogen chloride | 1M | Cl | ClH
reactant | Na2CO3 | 50.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Et2O | 150 mL | CCOCC | C4H10O
solvent | water | 500 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazine | 5.12 g, 34.8% | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2)C1 | C12H8FN3
